US08008298B2
A solution of tetrahydro-thiopyran-4-carbonitrile (3.05 g, 24 mmol) in anhydrous tetrahydrofuran (60 ml) was cooled to −78° C. and treated with lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran, 26.4 ml, 26.4 mmol) dropwise. After 30 minutes of stirring, iodomethane (1.8 ml, 29 mmol) was added dropwise. The cooling bath was removed, and the reaction mixture was allowed to slowly rise to room temperature and stir overnight. The reaction mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving an orange oil. The oil was purified by silica gel chromatography using 5-50% EtOAc in hexanes as eluant to provide 1.81 g (53%) of 4-methyl-tetrahydro-thiopyran-4-carbonitrile as a colorless oil.

reactant | tetrahydro-thiopyran-4-carbonitrile | 24 mmol, 3.05 g | S1CCC(CC1)C#N | C6H9NS
reactant | lithium bis(trimethylsilyl)amide | 26.4 mmol, 1M, 26.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 29 mmol, 1.8 ml | IC | CH3I
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-methyl-tetrahydro-thiopyran-4-carbonitrile | 1.81 g, 53% | CC1(CCSCC1)C#N | C7H11NS
